*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:16:44 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFNSRX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFNSRX2 RN CKN SN Q D QN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET RN 2.08547e-16
*|P (RN X 0 3.1000 0.8550)
*|I (Mmn22:g Mmn22 g X 0 2.9475 0.4275)
*|I (Mmp22:g Mmp22 g X 0 2.9475 1.0075)
*|S (RN:2 2.9750 0.7900)
C1 Mmp22:g VSS 3.22101e-17
C2 Mmn22:g VSS 4.22415e-17
C3 RN:2 VSS 7.87032e-17
C4 RN VSS 5.53921e-17
Rl1 RN:2 Mmn22:g 98.768700 $W=0.039
Rl2 Mmp22:g RN:2 29.537928 $W=0.039
Rk3 RN RN:2 45.035847 $W=0.19
*
*|NET CKN 2.54471e-16
*|P (CKN X 0 0.3000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 0.3425 0.4725)
*|I (Mmp20:g Mmp20 g X 0 0.2875 1.3725)
*|S (CKN:2 0.3150 0.8500)
*|S (CKN:4 0.3150 0.8500)
C5 Mmp20:g VSS 3.97542e-17
C6 Mmn20:g VSS 3.85843e-17
C7 CKN:2 VSS 4.88538e-17
C8 CKN VSS 1.27279e-16
Rl4 Mmn20:g CKN:2 105.769226 $W=0.039
Rl5 CKN:2 Mmp20:g 147.252747 $W=0.039
Rk6 CKN:4 CKN 0.002711 $W=0.115
Rk7 CKN:2 CKN:4 45.000000 $W=0.115
*
*|NET SN 5.0538e-16
*|P (SN X 0 2.7000 0.8550)
*|I (Mmn30:g Mmn30 g X 0 2.5875 0.4275)
*|I (Mmn50:g Mmn50 g X 0 4.5575 0.4375)
*|I (Mmp30:g Mmp30 g X 0 2.5875 1.0075)
*|I (Mmp50:g Mmp50 g X 0 4.5575 1.2475)
*|S (SN:4 2.6250 0.6350)
C9 Mmp50:g VSS 7.34873e-17
C10 Mmp30:g VSS 3.56169e-17
C11 Mmn50:g VSS 1.39467e-16
C12 Mmn30:g VSS 1.24079e-16
C13 SN:4 VSS 6.68355e-17
C14 SN VSS 6.58946e-17
Rl8 Mmn30:g SN:4 37.694366 $W=0.039
Rl9 Mmn50:g Mmn30:g 899.565552 $W=0.039
Rl10 SN:4 Mmp30:g 87.694366 $W=0.039
Rl11 Mmp50:g Mmn50:g 242.307709 $W=0.039
Rk12 SN SN:4 45.163162 $W=0.08
*
*|NET Q 1.48177e-16
*|P (Q X 0 5.9000 1.0450)
*|I (Mmn55:d Mmn55 d X 0 5.8950 0.5300)
*|I (Mmp55@1:d Mmp55@1 d X 0 5.8950 1.1000)
*|S (Q:2 5.8900 1.0400)
C15 Mmp55@1:d VSS 9.78267e-18
C16 Mmn55:d VSS 5.80888e-17
C17 Q VSS 8.03058e-17
Rk13 Q:2 Q 0.003006 $W=0.1
Rk14 Q:2 Mmn55:d 75.264549 $W=0.1
Rk15 Q:2 Mmp55@1:d 62.000000 $W=0.1
*
*|NET D 3.13665e-16
*|P (D X 0 0.5000 1.0450)
*|I (Mmn25:g Mmn25 g X 0 0.5475 0.4725)
*|I (Mmp25:g Mmp25 g X 0 0.5475 1.3725)
*|S (D:2 0.5200 1.0400)
*|S (D:4 0.5200 1.0400)
C18 Mmp25:g VSS 6.0964e-17
C19 Mmn25:g VSS 5.67103e-17
C20 D:2 VSS 6.56968e-17
C21 D VSS 1.30294e-16
Rl16 D:2 Mmn25:g 177.614838 $W=0.039
Rl17 Mmp25:g D:2 73.768692 $W=0.039
Rk18 D:4 D 0.002900 $W=0.1075
Rk19 D:2 D:4 45.000000 $W=0.1075
*
*|NET QN 1.29093e-16
*|P (QN X 0 6.5000 1.0450)
*|I (Mmn57:d Mmn57 d X 0 6.4050 0.5300)
*|I (Mmp57@1:d Mmp57@1 d X 0 6.4900 1.1450)
*|S (QN:3 6.4900 1.0400)
C22 Mmp57@1:d VSS 7.85016e-17
C23 Mmn57:d VSS 5.05913e-17
Rk20 QN:3 QN 0.005081 $W=0.13
Rk21 QN:3 Mmn57:d 75.297844 $W=0.1
Rk22 QN:3 Mmp57@1:d 62.000000 $W=0.1
*
*|NET CKNb 1.69133e-15
*|I (Mmn20:d Mmn20 d X 0 0.2500 0.4725)
*|I (Mmn36:g Mmn36 g X 0 1.0025 0.4725)
*|I (Mmn21:g Mmn21 g X 0 1.4325 0.5875)
*|I (Mmn40:g Mmn40 g X 0 3.6975 0.5875)
*|I (Mmp20:d Mmp20 d X 0 0.1775 1.3725)
*|I (Mmp26:g Mmp26 g X 0 0.6525 1.3725)
*|I (Mmp21:g Mmp21 g X 0 1.4325 1.0075)
*|I (Mmp53:g Mmp53 g X 0 3.9225 1.1175)
*|S (CKNb:2 0.6900 1.0550)
*|S (CKNb:4 1.0400 0.7750)
*|S (CKNb:6 1.4325 0.7750)
*|S (CKNb:7 1.3800 0.7750)
*|S (CKNb:9 1.7600 0.8500)
*|S (CKNb:11 3.6600 0.7800)
*|S (CKNb:13 3.8850 1.3850)
*|S (CKNb:14 0.6900 0.6500)
*|S (CKNb:15 0.1300 0.6500)
*|S (CKNb:18 3.6600 1.2800)
C24 Mmp53:g VSS 5.16436e-17
C25 Mmp21:g VSS 4.41467e-17
C26 Mmp26:g VSS 5.85022e-17
C27 Mmp20:d VSS 6.0785e-17
C28 Mmn40:g VSS 4.83774e-17
C29 Mmn21:g VSS 3.4254e-17
C30 Mmn36:g VSS 3.95554e-17
C31 Mmn20:d VSS 2.96637e-17
C32 CKNb:18 VSS 3.08787e-16
C33 CKNb:15 VSS 7.0278e-17
C34 CKNb:14 VSS 1.56686e-16
C35 CKNb:2 VSS 1.19285e-16
C36 CKNb:4 VSS 1.57735e-16
C37 CKNb:7 VSS 7.62965e-17
C38 CKNb:9 VSS 2.54598e-16
C39 CKNb:11 VSS 1.23183e-16
C40 CKNb:13 VSS 5.75555e-17
Rl23 CKNb:6 CKNb:9 163.860626 $W=0.039
Rl24 CKNb:6 CKNb:7 49.432732 $W=0.094
Rl25 Mmn36:g CKNb:4 119.232826 $W=0.039
Rl26 CKNb:6 Mmn21:g 39.206493 $W=0.039
Rl27 Mmn40:g CKNb:11 76.925140 $W=0.039
Rl28 Mmp26:g CKNb:2 111.540527 $W=0.039
Rl29 Mmp21:g CKNb:6 43.052647 $W=0.039
Rl30 Mmp53:g CKNb:13 92.309753 $W=0.039
Rk31 CKNb:7 CKNb:4 0.253174 $W=0.09
Rk32 CKNb:4 CKNb:14 0.837336 $W=0.0885
Rk33 CKNb:14 CKNb:2 0.335776 $W=0.08
Rk34 CKNb:14 CKNb:15 0.370755 $W=0.08
Rk35 CKNb:18 CKNb:13 0.211570 $W=0.09
Rk36 CKNb:11 CKNb:18 0.379679 $W=0.08
Rk37 CKNb:18 CKNb:9 1.853427 $W=0.08
Rk38 CKNb:15 Mmn20:d 75.191124 $W=0.09
Rk39 CKNb:15 Mmp20:d 62.502270 $W=0.09
*
*|NET n21 1.43231e-18
*|I (Mmn25:d Mmn25 d X 0 0.6475 0.4725)
*|I (Mmn26:s Mmn26 s X 0 0.6475 0.4725)
C41 Mmn25:d VSS 1.43231e-18
Rmw40 Mmn26:s Mmn25:d 0.001000 $W=1
*
*|NET n20 5.26393e-16
*|I (Mmn26:d Mmn26 d X 0 0.8750 0.4725)
*|I (Mmn32:g Mmn32 g X 0 2.2075 0.4275)
*|I (Mmp26:d Mmp26 d X 0 0.9300 1.2775)
*|I (Mmp32:g Mmp32 g X 0 2.1075 1.0075)
*|S (n20:3 1.9450 1.3450)
*|S (n20:5 0.8500 1.3250)
C42 Mmp32:g VSS 7.47943e-17
C43 Mmp26:d VSS 1.32581e-16
C44 Mmn32:g VSS 7.29488e-17
C45 Mmn26:d VSS 1.18488e-16
C46 n20:3 VSS 1.2758e-16
Rl41 Mmp32:g n20:3 141.846588 $W=0.039
Rl42 Mmn32:g Mmp32:g 174.565643 $W=0.039
Rk43 n20:3 n20:5 0.746505 $W=0.09
Rk44 n20:5 Mmn26:d 75.591232 $W=0.09
Rk45 Mmp26:d n20:5 62.000000 $W=0.09
*
*|NET CKNbb 9.39071e-16
*|I (Mmn26:g Mmn26 g X 0 0.7475 0.4725)
*|I (Mmn21:d Mmn21 d X 0 1.5250 0.5875)
*|I (Mmn53:g Mmn53 g X 0 3.9225 0.5875)
*|I (Mmp36:g Mmp36 g X 0 1.0025 1.2775)
*|I (Mmp21:d Mmp21 d X 0 1.5750 1.0550)
*|I (Mmp40:g Mmp40 g X 0 3.7025 1.1175)
*|S (CKNbb:2 1.0400 0.9500)
*|S (CKNbb:6 3.6650 1.4400)
*|S (CKNbb:8 1.5350 1.0550)
*|S (CKNbb:9 1.5525 0.9500)
*|S (CKNbb:11 1.5350 0.6000)
C47 Mmp40:g VSS 6.91466e-17
C48 Mmp21:d VSS 1.94717e-16
C49 Mmp36:g VSS 3.85365e-17
C50 Mmn53:g VSS 6.41462e-17
C51 Mmn21:d VSS 4.4282e-17
C52 Mmn26:g VSS 6.36444e-17
C53 CKNbb:9 VSS 4.76074e-17
C54 CKNbb:2 VSS 1.27363e-16
C55 CKNbb:6 VSS 2.89628e-16
Rl46 CKNbb:2 Mmn26:g 232.246429 $W=0.039
Rl47 Mmp36:g CKNbb:2 70.386673 $W=0.039
Rl48 Mmp40:g CKNbb:6 113.463593 $W=0.039
Rl49 Mmn53:g Mmp40:g 183.746674 $W=0.039
Rk50 CKNbb:6 CKNbb:8 1.870645 $W=0.08
Rk51 CKNbb:9 CKNbb:2 45.353642 $W=0.09
Rk52 CKNbb:8 CKNbb:9 0.062713 $W=0.112
Rk53 CKNbb:9 CKNbb:11 0.242866 $W=0.09
Rk54 Mmn21:d CKNbb:11 75.000000 $W=0.09
Rk55 Mmp21:d CKNbb:8 62.000000 $W=0.08
*
*|NET n30 3.43925e-19
*|I (Mmn36:s Mmn36 s X 0 1.1200 0.4725)
*|I (Mmn35:d Mmn35 d X 0 1.1200 0.4725)
C56 Mmn36:s VSS 3.43925e-19
Rmw56 Mmn35:d Mmn36:s 0.001000 $W=1
*
*|NET mout 8.67577e-16
*|I (Mmn35:g Mmn35 g X 0 1.2375 0.4725)
*|I (Mmn31:s Mmn31 s X 0 2.1050 0.4275)
*|I (Mmn40:s Mmn40 s X 0 3.5575 0.5875)
*|I (Mmp35:g Mmp35 g X 0 1.2375 1.2775)
*|I (Mmp32:d Mmp32 d X 0 2.3475 1.0075)
*|I (Mmp40:s Mmp40 s X 0 3.5600 1.1175)
*|S (mout:3 1.2000 0.3000)
*|S (mout:5 3.5000 1.0900)
*|S (mout:8 2.4850 1.0550)
*|S (mout:9 2.1050 0.6050)
C57 Mmp40:s VSS 2.47702e-18
C58 Mmp32:d VSS 1.73059e-16
C59 Mmp35:g VSS 8.14009e-17
C60 Mmn40:s VSS 6.21026e-17
C61 Mmn31:s VSS 3.27292e-17
C62 Mmn35:g VSS 6.76619e-17
C63 mout:9 VSS 1.48497e-16
C64 mout:5 VSS 1.67888e-16
C65 mout:3 VSS 1.31761e-16
Rl57 Mmn35:g mout:3 69.232826 $W=0.039
Rl58 Mmp35:g Mmn35:g 240.384613 $W=0.039
Rk59 mout:5 mout:8 0.851952 $W=0.08
Rk60 mout:9 mout:3 0.849916 $W=0.0885
Rk61 mout:8 mout:9 0.588692 $W=0.08
Rk62 mout:9 Mmn31:s 75.098114 $W=0.08
Rk63 mout:5 Mmn40:s 75.379280 $W=0.08
Rk64 Mmp32:d mout:8 62.000000 $W=0.08
Rk65 Mmp40:s mout:5 62.000000 $W=0.1
*
*|NET RNb 1.07936e-15
*|I (Mmn31:g Mmn31 g X 0 2.0025 0.4275)
*|I (Mmn22:d Mmn22 d X 0 3.0400 0.4275)
*|I (Mmn51:g Mmn51 g X 0 4.9725 0.4375)
*|I (Mmp31:g Mmp31 g X 0 2.0025 1.0075)
*|I (Mmp22:d Mmp22 d X 0 3.1650 1.0075)
*|I (Mmp51:g Mmp51 g X 0 4.8675 1.1525)
*|S (RNb:3 2.4550 0.1900)
*|S (RNb:5 4.9050 0.7650)
*|S (RNb:8 3.0500 0.4150)
C66 Mmp51:g VSS 7.55627e-17
C67 Mmp22:d VSS 9.69723e-17
C68 Mmp31:g VSS 9.15603e-17
C69 Mmn51:g VSS 3.62789e-17
C70 Mmn22:d VSS 2.21467e-16
C71 Mmn31:g VSS 6.34089e-17
C72 RNb:3 VSS 1.47268e-16
C73 RNb:5 VSS 3.46838e-16
Rl66 Mmn31:g RNb:3 273.823364 $W=0.039
Rl67 Mmn51:g RNb:5 99.842270 $W=0.039
Rl68 Mmp31:g Mmn31:g 153.846161 $W=0.039
Rl69 RNb:5 Mmp51:g 93.463593 $W=0.039
Rk70 RNb:5 RNb:8 46.819611 $W=0.08
Rk71 RNb:8 RNb:3 0.606461 $W=0.09
Rk72 Mmn22:d RNb:8 75.000000 $W=0.08
Rk73 RNb:8 Mmp22:d 62.539318 $W=0.0835
*
*|NET n25 1.55604e-16
*|I (Mmn31:d Mmn31 d X 0 1.9100 0.4275)
*|I (Mmn32:s Mmn32 s X 0 2.3975 0.4275)
C74 Mmn32:s VSS 7.50829e-17
C75 Mmn31:d VSS 8.05213e-17
Rk74 Mmn31:d Mmn32:s 150.497955 $W=0.08
*
*|NET n35 5.52957e-16
*|I (Mmn40:d Mmn40 d X 0 3.8100 0.5875)
*|I (Mmn45:g Mmn45 g X 0 5.5525 0.5575)
*|I (Mmp40:d Mmp40 d X 0 3.8125 1.1175)
*|I (Mmp45:g Mmp45 g X 0 5.4375 1.1600)
*|S (n35:2 5.4100 0.8950)
*|S (n35:4 3.8200 0.9250)
C76 Mmp45:g VSS 3.95981e-17
C77 Mmp40:d VSS 3.51489e-17
C78 Mmn45:g VSS 4.64585e-17
C79 Mmn40:d VSS 5.35916e-17
C80 n35:4 VSS 2.0602e-16
C81 n35:2 VSS 1.72141e-16
Rl75 Mmn45:g n35:2 104.806168 $W=0.039
Rl76 n35:2 Mmp45:g 29.537926 $W=0.039
Rk77 n35:2 n35:4 46.189022 $W=0.08
Rk78 n35:4 Mmn40:d 75.257591 $W=0.08
Rk79 n35:4 Mmp40:d 62.117973 $W=0.08
*
*|NET n40 2.76871e-16
*|I (Mmn53:d Mmn53 d X 0 4.0725 0.5875)
*|I (Mmn52:d Mmn52 d X 0 4.8675 0.4375)
C82 Mmn52:d VSS 1.32968e-16
C83 Mmn53:d VSS 1.43903e-16
Rk80 Mmn53:d Mmn52:d 150.873932 $W=0.08
*
*|NET n42 1.74896e-16
*|I (Mmn50:d Mmn50 d X 0 4.6600 0.4375)
*|I (Mmn51:s Mmn51 s X 0 5.0650 0.4375)
C84 Mmn51:s VSS 7.20548e-17
C85 Mmn50:d VSS 1.02841e-16
Rk81 Mmn51:s Mmn50:d 150.386932 $W=0.1
*
*|NET qbint 9.99928e-16
*|I (Mmn52:g Mmn52 g X 0 4.7625 0.4375)
*|I (Mmn45:d Mmn45 d X 0 5.4600 0.5575)
*|I (Mmn55:g Mmn55 g X 0 5.7575 0.5300)
*|I (Mmn56:g Mmn56 g X 0 6.7575 0.4725)
*|I (Mmp52:g Mmp52 g X 0 4.7625 1.1525)
*|I (Mmp45:d Mmp45 d X 0 5.3450 1.1600)
*|I (Mmp56:g Mmp56 g X 0 6.7875 1.0575)
*|S (qbint:1 5.0100 1.4350)
*|S (qbint:11 6.7300 0.8400)
*|S (qbint:16 5.3350 1.2550)
C86 Mmp56:g VSS 3.21071e-17
C87 Mmp45:d VSS 5.81988e-17
C88 Mmp52:g VSS 1.06628e-16
C89 Mmn56:g VSS 3.85797e-17
C90 Mmn55:g VSS 4.25192e-16
C91 Mmn45:d VSS 4.19853e-17
C92 Mmn52:g VSS 7.18321e-17
C93 qbint:1 VSS 8.14018e-17
C94 qbint:11 VSS 1.44002e-16
Rl82 qbint:11 Mmn56:g 95.948906 $W=0.039
Rl83 qbint:1 Mmp52:g 196.436142 $W=0.039
Rl84 Mmp52:g Mmn52:g 205.769226 $W=0.039
Rl85 Mmp56:g qbint:11 33.995403 $W=0.039
Rk86 qbint:16 qbint:1 0.342980 $W=0.0885
Rk87 Mmn55:g qbint:11 45.761707 $W=0.08
Rk88 qbint:16 Mmn55:g 0.292080 $W=0.09
Rk89 Mmn45:d Mmn55:g 75.325699 $W=0.09
Rk90 qbint:16 Mmp45:d 62.000000 $W=0.0885
*
*|NET qint 3.2861e-16
*|I (Mmn57:g Mmn57 g X 0 6.3025 0.5300)
*|I (Mmn56:d Mmn56 d X 0 6.8500 0.4725)
*|I (Mmp56:d Mmp56 d X 0 6.8800 1.0575)
*|S (qint:9 6.8600 0.6500)
C95 Mmp56:d VSS 3.91601e-17
C96 Mmn56:d VSS 1.75358e-17
C97 Mmn57:g VSS 2.32573e-16
C98 qint:9 VSS 3.93407e-17
Rk91 qint:9 Mmn57:g 45.280014 $W=0.08
Rk92 qint:9 Mmn56:d 75.115211 $W=0.1
Rk93 qint:9 Mmp56:d 62.269939 $W=0.09
*
*|NET n22 0
*|I (Mmp25:d Mmp25 d X 0 0.6000 1.3725)
*|I (Mmp26:s Mmp26 s X 0 0.6000 1.3725)
Rmw94 Mmp26:s Mmp25:d 0.001000 $W=1
*
*|NET n31 5.58581e-18
*|I (Mmp36:s Mmp36 s X 0 1.1200 1.2775)
*|I (Mmp35:d Mmp35 d X 0 1.1200 1.2775)
C99 Mmp36:s VSS 5.58581e-18
Rmw95 Mmp35:d Mmp36:s 0.001000 $W=1
*
*|NET n26 8.08912e-19
*|I (Mmp31:d Mmp31 d X 0 2.0550 1.0075)
*|I (Mmp32:s Mmp32 s X 0 2.0550 1.0075)
C100 Mmp31:d VSS 8.08912e-19
Rmw96 Mmp32:s Mmp31:d 0.001000 $W=1
*
*|NET n41 1.74795e-16
*|I (Mmp53:d Mmp53 d X 0 4.0150 1.1175)
*|I (Mmp50:d Mmp50 d X 0 4.7100 1.1525)
C101 Mmp50:d VSS 9.89222e-17
C102 Mmp53:d VSS 7.58727e-17
Rk97 Mmp50:d Mmp53:d 124.424950 $W=0.1
*
*|NET n43 7.90919e-19
*|I (Mmp52:s Mmp52 s X 0 4.8150 1.1525)
*|I (Mmp51:d Mmp51 d X 0 4.8150 1.1525)
C103 Mmp52:s VSS 7.90919e-19
Rmw98 Mmp51:d Mmp52:s 0.001000 $W=1
*
*Instance Section
*
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=1.04362e-06 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02247P	AS=0.0232P	PD=0.6U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=8.38621e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn26	Mmn26:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03045P	AS=0.02247P	PD=0.71U	PS=0.6U
+ fw=1.45e-07 sa=5.45e-07 sb=6.38621e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn36	Mmn26:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03045P	AS=0.02755P	PD=0.71U	PS=0.67U
+ fw=1.45e-07 sa=8e-07 sb=3.83621e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02755P	AS=0.0579P	PD=0.67U	PS=1.7U
+ fw=1.45e-07 sa=1.035e-06 sb=1.48621e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0579P	PD=0.57U	PS=1.7U
+ fw=1.45e-07 sa=3.33793e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=1.085e-06 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn32	Mmn31:s	Mmn32:g	Mmn32:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.04857P	PD=0.61U	PS=0.96U
+ fw=1.45e-07 sa=3.45e-07 sb=8.8e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn30	Mmn32:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04857P	AS=0.06127P	PD=0.96U	PS=1.18U
+ fw=1.45e-07 sa=7.25e-07 sb=5e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.06127P	PD=0.57U	PS=1.18U
+ fw=1.45e-07 sa=1.085e-06 sb=1.4e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn40	Mmn40:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0261P	AS=0.03407P	PD=0.65U	PS=0.76U
+ fw=1.45e-07 sa=2.35e-07 sb=4.8e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn53	Mmn53:d	Mmn53:g	Mmn40:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03697P	AS=0.0261P	PD=0.8U	PS=0.65U
+ fw=1.45e-07 sa=4.6e-07 sb=2.55e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.03275P	PD=0.61U	PS=0.82U
+ fw=1.45e-07 sa=2.17586e-07 sb=5.55e-07 sca=9.87692 scb=0.0087933 scc=0.000232488
Mmn52	Mmn52:d	Mmn52:g	Mmn50:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02392P	AS=0.0232P	PD=0.62U	PS=0.61U
+ fw=1.45e-07 sa=4.22586e-07 sb=3.5e-07 sca=9.87692 scb=0.0087933 scc=0.000232488
Mmn51	Mmn52:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02392P	AS=0.0203P	PD=0.62U	PS=0.57U
+ fw=1.45e-07 sa=6.32586e-07 sb=1.4e-07 sca=9.87692 scb=0.0087933 scc=0.000232488
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.0383P	PD=0.69U	PS=0.84U
+ fw=2.05e-07 sa=1.4e-07 sb=1.18232e-06 sca=19.867 scb=0.0198061 scc=0.00201945
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04122P	PD=0.57U	PS=0.93U
+ fw=1.45e-07 sa=1.25207e-06 sb=1.4e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0598P	AS=0.0484P	PD=0.98U	PS=0.905U	M=2
+ fw=2.6e-07 sa=2.93173e-07 sb=1.01173e-06 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04986P	PD=0.84U	PS=0.95U	M=2
+ fw=2.6e-07 sa=8.38173e-07 sb=4.66731e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.04623P	PD=0.78U	PS=0.86U
+ fw=2.15e-07 sa=1.75e-07 sb=7.91512e-07 sca=17.7347 scb=0.018547 scc=0.000439635
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.04623P	PD=0.55U	PS=0.86U
+ fw=2.15e-07 sa=4.35e-07 sb=5.31512e-07 sca=12.132 scb=0.00915419 scc=0.000101757
Mmp26	Mmp26:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0556P	AS=0.0129P	PD=1.23U	PS=0.55U
+ fw=2.15e-07 sa=5.4e-07 sb=4.26512e-07 sca=11.3905 scb=0.00832609 scc=9.89279e-05
Mmp36	Mmp26:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0556P	AS=0.04085P	PD=1.23U	PS=0.81U
+ fw=2.15e-07 sa=5.4093e-07 sb=3.35e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04085P	AS=0.0664P	PD=0.81U	PS=1.9U
+ fw=2.15e-07 sa=7.7593e-07 sb=1e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0263P	AS=0.0664P	PD=0.71U	PS=1.9U
+ fw=2.15e-07 sa=1e-07 sb=1.22326e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp31	Mmp31:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.0614P	PD=0.55U	PS=2.03U
+ fw=2.15e-07 sa=1.26744e-07 sb=1.335e-06 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp32	Mmp32:d	Mmp32:g	Mmp32:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.09352P	AS=0.0129P	PD=1.3U	PS=0.55U
+ fw=2.15e-07 sa=2.31744e-07 sb=1.23e-06 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp30	Mmp32:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.09352P	AS=0.10787P	PD=1.3U	PS=2.33U
+ fw=2.15e-07 sa=7.11744e-07 sb=7.5e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp22	Mmp22:d	Mmp22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.08385P	AS=0.10787P	PD=1.21U	PS=2.33U
+ fw=2.15e-07 sa=1.07174e-06 sb=3.9e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp40	Mmp40:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.0516P	PD=0.78U	PS=0.91U
+ fw=2.15e-07 sa=2.4e-07 sb=3.6e-07 sca=16.925 scb=0.0168124 scc=0.00121732
Mmp53	Mmp53:d	Mmp53:g	Mmp40:d	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.03762P	PD=0.71U	PS=0.78U
+ fw=2.15e-07 sa=4.6e-07 sb=1.4e-07 sca=16.925 scb=0.0168124 scc=0.00121732
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0382P	AS=0.0301P	PD=0.94U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=2.95349e-07 sca=10.8061 scb=0.00857865 scc=0.000148871
Mmp52	Mmp50:d	Mmp52:g	Mmp52:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0382P	AS=0.0129P	PD=0.94U	PS=0.55U
+ fw=2.15e-07 sa=2.36744e-07 sb=2.45e-07 sca=14.2498 scb=0.0138057 scc=0.00069487
Mmp51	Mmp51:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.0301P	PD=0.55U	PS=0.71U
+ fw=2.15e-07 sa=3.41744e-07 sb=1.4e-07 sca=14.2498 scb=0.0138057 scc=0.00069487
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.13095P	PD=0.9U	PS=2U
+ fw=3.1e-07 sa=1.4e-07 sb=1.30629e-06 sca=15.1875 scb=0.0142433 scc=0.000935749
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.07265P	PD=0.71U	PS=1.8U
+ fw=2.15e-07 sa=1.39791e-06 sb=1.4e-07 sca=38.5216 scb=0.0409143 scc=0.00421269
Mmp55@1	Mmp55@1:d	Mmn55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0897P	AS=0.14243P	PD=1.24U	PS=2.035U	M=2
+ fw=3.9e-07 sa=3.67692e-07 sb=9.99936e-07 sca=28.7024 scb=0.0198217 scc=0.00315848
Mmp57@1	Mmp57@1:d	Mmn57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.11327P	PD=1.1U	PS=1.935U	M=2
+ fw=3.9e-07 sa=9.33077e-07 sb=4.34551e-07 sca=20.2826 scb=0.0171335 scc=0.00171662
.ENDS
.END
